US08466157B2
N-(3-(dimethylamino)-4-oxonaphthalen-1(4H)-ylidene)thiophene-2-sulfonamide (13b):
33.5 mg (E)-N-(3-chloro-4-oxonaphthalen-1(4H)-ylidene)thiophene-2-sulfonamide was dissolved in 2 ml THF, to which was added 0.4 ml dimethylamine in THF solution (2 M). The wine-red solution was stirred at r.t. for 10 min and concentrated. The residue was suspended in 50 ml ethyl acetate and washed with water and brine. Dried over Na2SO4, the organic phase was filtered and the filtrate was concentrated to dryness affording the title compound 36 mg (100%) as a wine-red solid, m.p.: 183-185° C.

reactant | (E)-N-(3-chloro-4-oxonaphthalen-1(4H)-ylidene)thiophene-2-sulfonamide | 33.5 mg | ClC1=C/C(/C2=CC=CC=C2C1=O)=N\S(=O)(=O)C=1SC=CC1 | C14H8ClNO3S2
reactant | dimethylamine | 0.4 ml | CNC | C2H7N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 M | C1CCOC1 | C4H8O
product | N-(3-(dimethylamino)-4-oxonaphthalen-1(4H)-ylidene)thiophene-2-sulfonamide | 36 mg, 100% | CN(C1=CC(C2=CC=CC=C2C1=O)=NS(=O)(=O)C=1SC=CC1)C | C16H14N2O3S2
